US09447090B2
To a suspension of 384 mg of lithium aluminum hydride in 22 ml of diethyl ether were added 0.5 g of N-hydroxy-2,2-dimethylspiro[1,3-dioxane-5,2′-inden]-1′(3′H)-imine and 5 ml of THF under ice-cooling, followed by stirring at 40° C. for 8 hours. 0.55 ml of water, 0.55 ml of a 15% aqueous sodium hydroxide solution, and 1.65 ml of water were added thereto under ice-cooling. After filtration through Celite, the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography to obtain 146 mg of 2,2-dimethyl-1′,3′-dihydrospiro[1,3-dioxane-5,2′-inden]-1′-amine.

reactant | lithium aluminum hydride | 384 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | N-hydroxy-2,2-dimethylspiro[1,3-dioxane-5,2′-inden]-1′(3′H)-imine | 0.5 g | ON=C1C2(CC3=CC=CC=C13)COC(OC2)(C)C | C14H17NO3
reactant | THF | 5 ml | C1CCOC1 | C4H8O
reactant | sodium hydroxide | [OH-].[Na+]
solvent | diethyl ether | 22 ml | C(C)OCC | C4H10O
solvent | water | 1.65 ml | O | H2O
solvent | water | 0.55 ml | O | H2O
product | 2,2-dimethyl-1′,3′-dihydrospiro[1,3-dioxane-5,2′-inden]-1′-amine | 146 mg | CC1(OCC2(C(C3=CC=CC=C3C2)N)CO1)C | C14H19NO2
